US07304081B2
(1R)-1′-{[1-(2-Fluoro-4-pyridin-4-ylphenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
To a solution of (1R)-1′-{[1-(4-bromo-2-fluorophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (30 mg, 0.00007 mol, this compound was prepared by using a method that was analogous to that used for the synthesis of 238) in tetrahydrofuran (0.2 mL, 0.002 mol) were added tris(dibenzylideneacetone)dipalladium(0) (3 mg, 0.000003 mol), tri-tert-butylphosphine (1.7 mg, 0.0000083 mol), 4-(tributylstannyl)pyridine (30.7 mg, 0.0000835 mol), and the mixture was heated to 120° C. under microwave for 30 minutes. The reaction mixture was then filtered and the filtrate was diluted with methanol, and the product was isolated and purified by prep-HPLC. LC/MS (M+H+) 429.2.

reactant | (1R)-1′-{[1-(4-bromo-2-fluorophenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | BrC1=CC(=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O)F | C21H17BrFNO3
reactant | tetrahydrofuran | 0.002 mol, 0.2 mL | O1CCCC1 | C4H8O
reactant | tri-tert-butylphosphine | 0.0000083 mol, 1.7 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 4-(tributylstannyl)pyridine | 0.0000835 mol, 30.7 mg | C(CCC)[Sn](C1=CC=NC=C1)(CCCC)CCCC
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.000003 mol, 3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1R)-1′-{[1-(2-Fluoro-4-pyridin-4-ylphenyl)cyclopropyl]carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | FC1=C(C=CC(=C1)C1=CC=NC=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C26H21FN2O3
